US07012089B2
8-Fluoro-2,3,4,5,9,10,11,11a-octahydro-1H,8bH-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole
To a solution of 8-fluoro-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole (0.41 g, 1.68 mmole) in acetic acid (50 mL) was added sodium cyanoborohydride (0.33 g, 4.99 mmole) and the reaction mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was diluted with methylene chloride (200 mL) and washed with aqueous sodium hydroxide (1N, 150 mL), saturated sodium chloride (150 mL), dried (sodium sulfate) and concentrated. Purification by flash column chromatography (silica gel, 1.5% to 5% methanol in methylene chloride) provided 0.35 g of the title compound as a colorless oil. The oil was further treated with one equivalent of fumaric acid in ethanol to form a fumarate salt, mp 169-170° C. MS (ES) m/z 247.13 ([M+H]+).

reactant | 8-fluoro-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole | 1.68 mmole, 0.41 g | FC1=C2C3=C(N4C2=C(C=C1)CCNCC4)CCC3 | C15H17FN2
reactant | sodium cyanoborohydride | 4.99 mmole, 0.33 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 8-Fluoro-2,3,4,5,9,10,11,11a-octahydro-1H,8bH-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole | 0.35 g | FC1=C2C3C(N4C2=C(C=C1)CCNCC4)CCC3 | C15H19FN2
